US07504401B2
A mixture of 0.92 g (5.80 mmol) of 2-chloro-3-nitro-pyridine, 1.60 g (5.80 mmol) tripropyl-vinyl-stannane, 0.335 g (0.290 mmol) Pd(PPh3)4 and 10 mL of toluene were combined and refluxed under an inert atmosphere overnight. After routine aqueous workup the crude product was purified by chromatography on silica gel to give 0.470 g (54% yield) of 3-nitro-2-vinyl-pyridine.

reactant | 2-chloro-3-nitro-pyridine | 5.80 mmol, 0.92 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | tripropyl-vinyl-stannane | 5.80 mmol, 1.60 g | C(CC)[Sn](C=C)(CCC)CCC
catalyst | Pd(PPh3)4 | 0.290 mmol, 0.335 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-nitro-2-vinyl-pyridine | 0.470 g, 54% yield | [N+](=O)([O-])C=1C(=NC=CC1)C=C | C7H6N2O2
